US06432993B1
4-Benzyloxy-2,5-di-t-butylphenyl acetate
Benzyl bromide (5.17 g) and potassium carbonate (4.15 g) were added to a solution of 2,5-di-t-butyl-4-hydroxyphenyl acetate (5.3 g) in acetone (40 ml). The mixture was stirred at ambient temperature for 48 hours. The reaction mixture was partitioned between ethyl acetate and water. The ethyl acetate layer was dried over anhydrous sodium sufate and concentrated. The residue was purified by chromatography on a silica gel column using c-hexane/diisopropyl ether=10/1 as the eluant to give the title compound (4.9 g).

reactant | Benzyl bromide | 5.17 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium carbonate | 4.15 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2,5-di-t-butyl-4-hydroxyphenyl acetate | 5.3 g | C(C)(=O)OC1=C(C=C(C(=C1)C(C)(C)C)O)C(C)(C)C | C16H24O3
solvent | acetone | 40 ml | CC(=O)C | C3H6O
product | 4-Benzyloxy-2,5-di-t-butylphenyl acetate | 4.9 g | C(C)(=O)OC1=C(C=C(C(=C1)C(C)(C)C)OCC1=CC=CC=C1)C(C)(C)C | C23H30O3
